US09079878B2
(3-{[(Benzyloxy)carbonyl]amino}tetrahydro-2H-pyran-3-yl)acetic acid
Ethyl (3-aminotetrahydro-2H-pyran-3-yl)acetate (Preparation 32, 1.33 g, 7.109 mmol), benzyl chloroformate (1.53 g, 8.53 mmol) and N,N-diisopropylethylamine (3.72 mL, 21.3 mmol) were stirred in anhydrous acetonitrile (30 mL) for 18 hours at room temperature. The reaction was concentrated in vacuo then partitioned between ethyl acetate and water. The organic layer was dried over MgSO4 and concentrated in vacuo. The residue was purified by silica gel column chromatography eluting with heptane:ethyl acetate:methanol (100:0:0-0:90:10). The oil isolated was then dissolved in methanol (10 mL) and a 1M aqueous solution of sodium hydroxide (10 mL) and heated to 75° C. for 18 hours. The methanol was removed in vacuo and the mixture partitioned between dichloromethane (10 mL) and water. The aqueous layer was acidified with 2M aqueous hydrogen chloride and extracted with dichloromethane (4×10 mL). The organic layer was dried over MgSO4 to afford the title compound as a oil (0.6 g, 29% yield over 2 steps).

reactant | Ethyl (3-aminotetrahydro-2H-pyran-3-yl)acetate | 7.109 mmol, 1.33 g | NC1(COCCC1)CC(=O)OCC | C9H17NO3
reactant | benzyl chloroformate | 8.53 mmol, 1.53 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | N,N-diisopropylethylamine | 21.3 mmol, 3.72 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | sodium hydroxide | 10 mL | [OH-].[Na+]
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
solvent | methanol | 10 mL | CO | CH4O
product | (3-{[(Benzyloxy)carbonyl]amino}tetrahydro-2H-pyran-3-yl)acetic acid | 0.6 g, 29% yield | C(C1=CC=CC=C1)OC(=O)NC1(COCCC1)CC(=O)O | C15H19NO5
